US06203724B1
0.908 g of 4-(4-bromo-2-fluorophenylethynyl)-4,4′-dipentylbicyclohexyl (obtainable by Wittig reaction of 4,4′-dipentylbicyclohexyl-4-carbaldehyde with 4-bromo-2-fluorobenzyltriphenylphosphonium bromide, addition of bromine onto the resultant alkene and subsequent dehydrobromination using a base), 0.715 g of 4-ethynyl-4,4′-dipentylbicyclohexyl and 0.104 g of tetrakis-(triphenylphosphine)palladium(0) are stirred overnight at 80° C. in 5 ml of pyrrolidine. Conventional work-up gives 4-[4-(4,4′-dipentylbicyclohexyl-4-ylethynyl)-2-fluorophenylethynyl]-4,4′-dipentylbicyclohexyl (C 177 I).

reactant | 4-(4-bromo-2-fluorophenylethynyl)-4,4′-dipentylbicyclohexyl | 0.908 g | BrC1=CC(=C(C=C1)C#CC1(CCC(CC1)C1CCC(CC1)CCCCC)CCCCC)F | C30H44BrF
reactant | 4,4′-dipentylbicyclohexyl-4-carbaldehyde | C(CCCC)C1(CCC(CC1)C1CCC(CC1)CCCCC)C=O | C23H42O
reactant | 4-bromo-2-fluorobenzyltriphenylphosphonium bromide | [Br-].BrC1=CC(=C(C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1)F
reactant | bromine | BrBr | Br2
reactant | 4-ethynyl-4,4′-dipentylbicyclohexyl | 0.715 g | C(#C)C1(CCC(CC1)C1CCC(CC1)CCCCC)CCCCC | C24H42
solvent | pyrrolidine | 5 ml | N1CCCC1 | C4H9N
product | 4-[4-(4,4′-dipentylbicyclohexyl-4-ylethynyl)-2-fluorophenylethynyl]-4,4′-dipentylbicyclohexyl | C(CCCC)C1(CCC(CC1)C1CCC(CC1)CCCCC)C#CC1=CC(=C(C=C1)C#CC1(CCC(CC1)C1CCC(CC1)CCCCC)CCCCC)F | C54H85F
